US08106221B2
A solution of tert-butyl 3-(3-chlorophenyl)-2-methyl-3-oxopropyl(methyl)carbamate (2.8 g, 9.4 mmol) in THF (20 mL) was added slowly to a suspension of LAH (537 mg, 14.1 mmol) in THF (10 mL). The mixture was then stirred at 50° C. for 4 h. The mixture was cooled to 0° C. and 4 g of ice was added into the reaction. The mixture was stirred for 30 min at room temperature, diluted with ethyl acetate, dried over Na2SO4, filtered and concentrated to give the crude product. The residue was purified by chromatography to obtain pure 1-(3-chlorophenyl)-2-methyl-3-(methylamino)propan-1-ol (930 mg, 32%).

reactant | tert-butyl 3-(3-chlorophenyl)-2-methyl-3-oxopropyl(methyl)carbamate | 9.4 mmol, 2.8 g | ClC=1C=C(C=CC1)C(C(CN(C(OC(C)(C)C)=O)C)C)=O | C16H22ClNO3
reactant | LAH | 14.1 mmol, 537 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3-chlorophenyl)-2-methyl-3-(methylamino)propan-1-ol | 930 mg, 32% | ClC=1C=C(C=CC1)C(C(CNC)C)O | C11H16ClNO
